US06200978B1
1H-Indole-5-carbaldehyde
5-bromoindole (5.0 g) was added to a stirred suspension of potassium hydride (2.92 g) in diethyl ether (100 ml) at 0° C. The reaction mixture was stirred for 15 mins, cooled to −78° C. before tert-butyl lithium (31.5 ml) was added, and after 30 minutes dimethylformamide (10 ml). The reaction mixture was stirred at room temperature for 18 hrs and then poured into ice-cold 1N HCl the layers were separated and the aqueous was extracted with ethyl acetate (×3). The combined organic layers were washed with saturated sodium bicarbonate solution, brine, dried MgSO4 and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with Dichloromethane/Methanol (97/3, v/v) to afford a white solid (1.8 g).

reactant | 5-bromoindole | 5.0 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | potassium hydride | 2.92 g | [H-].[K+]
reactant | tert-butyl lithium | 31.5 ml | C(C)(C)(C)[Li]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1H-Indole-5-carbaldehyde | 1.8 g | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
